US05409928
(2) Preparation of 6-ethoxycarbonyl-7-hydroxy-3-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazolo[1,5-a]pyrimidine
To a solution of 3-amino-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole (1.5 g) in ethanol (10 ml) was added diethyl ethoxymethylenemalonate (2.07 ml), and the mixture was heated and refluxed for 12 hours. To the mixture was added sodium methoxide (829 mg) under ice-cooling, and the mixture was stirred at room temperature for 1 day. The solvent was distilled away under reduced pressure, and thereto was added water (50 ml) under ice-cooling. The mixture was adjusted to acid with 10% hydrochloric acid, and the precipitate was separated by filtration, washed with water to give the title compound (2.1 g) at a quantitative yield.

reactant | 3-amino-4-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazole | 1.5 g | NC1=NNC=C1C1=CC=C(C=C1)CC1=CC2=C(C=C1)OCO2 | C17H15N3O2
reactant | diethyl ethoxymethylenemalonate | 2.07 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium methoxide | 829 mg | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-ethoxycarbonyl-7-hydroxy-3-[4-(3,4-methylenedioxyphenylmethyl)phenyl]pyrazolo[1,5-a]pyrimidine | 2.1 g, quantitative yield | C(C)OC(=O)C=1C=NC=2N(C1O)N=CC2C2=CC=C(C=C2)CC2=CC1=C(C=C2)OCO1 | C23H19N3O5
